### PR TITLE
feat: More `grind` annotations for `List.range'`

### PR DESCRIPTION
**Pull request by sgraf812**
This PR moves `List.range'_elim` to `List.eq_of_range'_eq_append_cons` and adds a couple of `grind` annotations for `List.range'`. This will make it more convenient to work with proof obligations produced by `mvcgen`.

### CODE REVIEW

File: src/Init/Data/List/Nat/Range.lean [hunk 1]
```diff
@@ -178,6 +177,36 @@ theorem count_range_1' {a s n} :
...
+    cur = s + step * xs.length := by
+  rw [range'_eq_append_iff] at h
+  obtain ⟨k, hk, hxs, hcur⟩ := h
+  have h := (range'_eq_cons_iff.mp hcur.symm).1.symm
+  have hk : k = xs.length := by simp_all [length_range']
+  simp only [h, hk, Nat.add_left_cancel_iff]
+  apply Nat.mul_comm
+
+@[grind →]
+theorem range'_eq_append_cons_elim_mem (h : range' s n = xs ++ i :: ys) :
```
Comment (b-mehta) [inline src/Init/Data/List/Nat/Range.lean]:
```suggestion
theorem mem_of_range'_eq_append_cons (h : range' s n = xs ++ i :: ys) :
```

File: src/Init/Data/List/Nat/Range.lean [hunk 2]
```diff
@@ -178,6 +177,36 @@ theorem count_range_1' {a s n} :
     specialize h (a - s)
     omega
 
+@[grind →]
+theorem range'_eq_append_cons_elim_cur (h : range' s n step = xs ++ cur :: ys) :
```
Comment (b-mehta) [inline src/Init/Data/List/Nat/Range.lean]:
```suggestion
theorem eq_of_range'_eq_append_cons (h : range' s n step = xs ++ cur :: ys) :
```

File: src/Init/Data/List/Nat/Range.lean [hunk 3]
```diff
@@ -178,6 +177,36 @@ theorem count_range_1' {a s n} :
...
+  have hk : k = xs.length := by simp_all [length_range']
+  simp only [h, hk, Nat.add_left_cancel_iff]
+  apply Nat.mul_comm
+
+@[grind →]
+theorem range'_eq_append_cons_elim_mem (h : range' s n = xs ++ i :: ys) :
+    i ∈ range' s n := by simp [h]
+
+@[grind →]
+theorem range'_eq_append_cons_elim_ge (h : List.range' s n = xs ++ i :: ys) (hj : j ∈ xs) :
```
Comment (b-mehta) [inline src/Init/Data/List/Nat/Range.lean]:
```suggestion
theorem ge_of_range'_eq_append_cons (h : List.range' s n = xs ++ i :: ys) (hj : j ∈ xs) :
```

File: src/Init/Data/List/Nat/Range.lean [hunk 4]
```diff
@@ -178,6 +177,36 @@ theorem count_range_1' {a s n} :
...
+    j ≤ i := by
+  obtain ⟨_, _, rfl, htail⟩ := range'_eq_append_iff.mp h
+  obtain ⟨rfl, _⟩ := range'_eq_cons_iff.mp htail.symm
+  simp only [mem_range'_1] at hj
+  omega
+
+@[grind →]
+theorem range'_eq_append_cons_elim_le (h : List.range' s n = xs ++ i :: ys) (hj : j ∈ ys) :
```
Comment (b-mehta) [inline src/Init/Data/List/Nat/Range.lean]:
```suggestion
theorem le_of_range'_eq_append_cons (h : List.range' s n = xs ++ i :: ys) (hj : j ∈ ys) :
```

**Review by b-mehta — COMMENTED** [review]
I think these are closer to the right names, a statement "A implies B" is usually named `B_of_A`

File: src/Init/Data/List/Nat/Range.lean (hunk 4 above)
Comment (sgraf812) [reply src/Init/Data/List/Nat/Range.lean]: Thanks. I "strengthened" to `<`

```
theorem lt_of_range'_eq_append_cons (h : range' s n step = xs ++ i :: ys) (hstep : 0 < step) (hj : j ∈ ys) :
    i < j := by
```

`hstep` should be available as a field of `Std.Range`.

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-08-12` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-12 10:50:17)
- ✅ Mathlib branch [lean-pr-testing-9766](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9766) has successfully built against this PR. (2025-08-12 12:33:17) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16907815960)
- ✅ Mathlib branch [lean-pr-testing-9766](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9766) has successfully built against this PR. (2025-08-13 10:51:02) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16933975984)
